### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/QuadraticNonvanishing): new file

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
We add a new file whose main result is
```lean
theorem LFunction_at_one_ne_zero_of_quadratic {N : ℕ} [NeZero N] {χ : DirichletCharacter ℂ N}
    (hχ : χ ^ 2 = 1) (χ_ne : χ ≠ 1) :
    χ.LFunction 1 ≠ 0 := by
```
which is needed to prove Dirichlet's Theorem on primes in AP.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by MichaelStollBayreuth** [comment]
@loefflerd @CBirkbeck I have restructured the code for the nonvanishing of the L-function of quadratic Dirichlet characters at `s = 1`. In particular (and as envisaged) I have split the main part of the code into properties of the convolution with zeta on the ode side (which might be useful in other contexts) and properties that need the (false) assumption that `L χ 1 = 0`. (Plus some golfing.) Your reviews are welcome!

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 1]
```diff
@@ -0,0 +1,188 @@
...
+  · simp only [ArithmeticFunction.map_zero, le_refl]
+  · simpa only [χ.isMultiplicative_zetaMul.multiplicative_factorization _ hn] using
+      Finset.prod_nonneg
+        fun p hp ↦ zetaMul_prime_pow_nonneg hχ (Nat.prime_of_mem_primeFactors hp) _
+
+
+/-!
+### "Bad" Dirichlet characters
+
+Our goal is to show that `L χ 1 ≠ 0` when `χ` is a (nontrivial) quadratic Dirichlet character.
```
Comment (acmepjz) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:86]:
```suggestion
Our goal is to show that `L(χ, 1) ≠ 0` when `χ` is a (nontrivial) quadratic Dirichlet character.
```
I think maybe here it's better to write `L(χ, 1)` since in docstring at L174 you already write `L(χ, 1)`.

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+To do that, we package the contradictory properties in a structure `DirichletCharacter.BadChar`
+and derive further statements eventually leading to a contradiction.
+-/
+
+/-- The object we're trying to show doesn't exist: A nontrivial quadratic Dirichlet character
+whose L-function vanishes at `s =1`. -/
```
Comment (acmepjz) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:92]:
```suggestion
whose L-function vanishes at `s = 1`. -/
```

**Review by acmepjz — COMMENTED** [review]
Found some typo.

File: Mathlib/NumberTheory/LSeries/Dirichlet.lean [hunk 3]
```diff
@@ -105,6 +105,21 @@ local notation (name := Dchar_one) "χ₁" => (1 : DirichletCharacter ℂ 1)
 
 namespace DirichletCharacter
 
+open ArithmeticFunction in
+/-- The arihmetic function associated to a Dirichlet character is multiplicative. -/
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Dirichlet.lean:109]: typo
```suggestion
/-- The arithmetic function associated to a Dirichlet character is multiplicative. -/
```

**Review by loefflerd — APPROVED** [review]
I spotted a very minor typo. Otherwise LGTM.

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 4]
```diff
@@ -0,0 +1,188 @@
...
+open ArithmeticFunction in
+/-- `B.F` agrees with the L-series of `zetaMul χ` on `1 < s.re`. -/
+lemma F_eq_LSeries (B : BadChar N) {s : ℂ} (hs : 1 < s.re) :
+    B.F s = LSeries B.χ.zetaMul s := by
+  rw [F, zetaMul, ← coe_mul, LSeries_convolution']
+  · have hs' : s ≠ 1 := fun h ↦ by simp only [h, one_re, lt_self_iff_false] at hs
+    simp only [ne_eq, hs', not_false_eq_true, Function.update_noteq, B.χ.LFunction_eq_LSeries hs]
+    congr 1
+    · rw [← LSeries_zeta_eq_riemannZeta hs]
+      rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:128]: I suggest
```suggestion
    · simp_rw [← LSeries_zeta_eq_riemannZeta hs, ← natCoe_apply]
```
to avoid the `rfl`

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 5]
```diff
@@ -0,0 +1,188 @@
...
+
+open scoped ComplexOrder in
+/-- If `χ` is a nontrivial quadratic Dirichlet character, then `L(χ, 1) ≠ 0`. -/
+theorem LFunction_at_one_ne_zero_of_quadratic {N : ℕ} [NeZero N] {χ : DirichletCharacter ℂ N}
+    (hχ : χ ^ 2 = 1) (χ_ne : χ ≠ 1) :
+    χ.LFunction 1 ≠ 0 := by
+  intro hL
+  -- construct a "bad character" and put together a contradiction.
+  let B : BadChar N := {χ := χ, χ_sq := hχ, hχ := hL, χ_ne := χ_ne}
+  refine (B.F_neg_two ▸ (?_ : 0 < B.F (-2 : ℝ))).false
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:181]: How about
```suggestion
  refine B.F_neg_two.not_gt ?_
```

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 6]
```diff
@@ -0,0 +1,188 @@
...
+### "Bad" Dirichlet characters
+
+Our goal is to show that `L(χ, 1) ≠ 0` when `χ` is a (nontrivial) quadratic Dirichlet character.
+To do that, we package the contradictory properties in a structure `DirichletCharacter.BadChar`
+and derive further statements eventually leading to a contradiction.
+-/
+
+/-- The object we're trying to show doesn't exist: A nontrivial quadratic Dirichlet character
+whose L-function vanishes at `s = 1`. -/
+structure BadChar (N : ℕ) [NeZero N] where
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:93]: Can we make this private?

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean]: Yes, of course. As bad characters don't exist, this will not be of use outside this file.

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 7]
```diff
@@ -0,0 +1,187 @@
...
+        fun p hp ↦ zetaMul_prime_pow_nonneg hχ (Nat.prime_of_mem_primeFactors hp) _
+
+
+/-!
+### "Bad" Dirichlet characters
+
+Our goal is to show that `L(χ, 1) ≠ 0` when `χ` is a (nontrivial) quadratic Dirichlet character.
+To do that, we package the contradictory properties in a (private) structure
+`DirichletCharacter.BadChar` and derive further statements eventually leading to a contradiction.
+-/
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:89]: This comment will appear in the reference manual, although the declarations it refers to won't, if I'm not mistaken. Maybe change it to a plain comment, `/-` rather than `/-!` ?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean]: Done.

File: Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean [hunk 8]
```diff
@@ -0,0 +1,187 @@
...
+  rw [F, ofReal_neg, ofReal_ofNat, Function.update_noteq (mod_cast (by omega : (-2 : ℤ) ≠ 1)),
+    this, zero_mul]
+
+end BadChar
+
+/-!
+### The main result
+-/
+
+open scoped ComplexOrder in
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:172]:
```suggestion

```

Comment (CBirkbeck) [reply Mathlib/NumberTheory/LSeries/QuadraticNonvanishing.lean:172]: Other than this trivial suggestion it LGTM, sorry I only just got around to looking at this!

**Comment by loefflerd** [comment]
maintainer merge

(Note to maintainers: I was among the contributors to the original code in the `DirichletNonvanishing` repo. I hope it is not seen as a "conflict of interest" if I maintainer-merge it anyway, since Michael and I have cross-checked each other's contributions, and it has been independently reviewed by Chris and Ruben.)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
